US08389523B2
3.0 g (12.9 mmol) of ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in ethanol (100 mL), and 4.1 g (25.6 mmol) of a 25% aqueous solution of sodium hydroxide was added dropwise thereto at room temperature. The mixture was stirred for a day at room temperature, and then the reaction mixture was concentrated under reduced pressure. Water was added to the reaction mixture, and the solution was acidified using 10% hydrochloric acid, and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and then the inorganic matter was separated by filtration. Then, the solvent was distilled off under reduced pressure, to obtain 2.6 g (yield: 99%) of 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid as a milky yellow powder.

reactant | ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 12.9 mmol, 3.0 g | CN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C12H12N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 2.6 g, yield: 99% | CN1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C10H8N2O3
